US08349833B2
A mixture of 4,5-dihydropyrrolo[1,2-a]quinoxaline-spiro-4-piperidine (2.0 mmol), triethylamine (2 mmol), isochroman-1-carboxylic acid (2 mmol) and Benzotriazole-1-yl-oxy-tris-(dimethylamino)-phosphonium hexafluorophosphate (2 mmol) in dichloromethane (10 mL) was stirred at room temperature for 16 hours. The mixture was quenched with saturated aqueous sodium bicarbonate solution (10 mL), stirred for 2 hours, and the product was extracted with dichloromethane (2×10 mL). The combined organic layers were dried over sodium sulfate and concentrated at reduced pressure to give a crude product. Purification via column chromatography (silica gel, ethyl acetate/hexane) afforded isochroman-1-yl(5′H-spiro[piperidine-4,4′-pyrrolo[1,2-a]quinoxaline]-1-yl)methanone. 1H NMR (300 MHz, CDCl3/TMS) δ 7.31-7.05 (m, 6H), 6.96 (dd, J=13.6, 6.1 Hz, 1H), 6.87-6.71 (m, 2H), 6.30 (t, J=3.1 Hz, 0.5H), 6.25 (t, J=3.1 Hz, 0.5H), 6.07 (d, J=2.1 Hz, 0.5H), 5.88 (d, J=2.1 Hz, 0.5H), 5.52 (s, 1H), 4.28-4.03 (m, 3H), 3.91-3.68 (m, 2H), 3.48-3.12 (m, 2H), 3.10-2.96 (m, 1H), 2.12-1.78 (m, 2.5H), 1.68-1.54 (m, 2H), 1.44-1.36 (m, 0.5H). 13C NMR (75 MHz, CDCl3/TMS) 168.30, 133.82, 132.75, 132.61, 132.31, 132.18, 129.01, 127.24, 126.29, 125.68, 124.63, 119.64, 116.30, 114.50, 114.36, 109.91, 102.92, 102.61, 79.59, 79.39, 64.55, 51.36, 41.63, 41.50, 38.67, 36.30, 35.69, 35.52, 28.00.

reactant | triethylamine | 2 mmol | C(C)N(CC)CC | C6H15N
reactant | isochroman-1-carboxylic acid | 2 mmol | C1(OCCC2=CC=CC=C12)C(=O)O | C10H10O3
reactant | Benzotriazole-1-yl-oxy-tris-(dimethylamino)-phosphonium hexafluorophosphate | 2 mmol | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | isochroman-1-yl(5′H-spiro[piperidine-4,4′-pyrrolo[1,2-a]quinoxaline]-1-yl)methanone | C1(OCCC2=CC=CC=C12)C(=O)N1CCC2(C=3N(C4=CC=CC=C4N2)C=CC3)CC1 | C25H25N3O2
